US07091199B1
Preparation of 3-(3-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-propoxy}-phenyl)-thieno[2,3-d]isoxazole (Scheme I, Compound 1)
The title compound is prepared from a mixture of 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole, 3-[3-(3-chloro-propoxy)-phenyl]-thieno[2,3-d]isoxazole, 1-(2-fluorophenyl) piperazine and potassium carbonate essentially as described above in example 4 except that the column is eluted with a mixture of dichloromethane:methanol (98:2). Combine the appropriate fractions and concentrate to give the title compound (0.45 g, 100% Yield) as a solid. Purity by LC/MS (APCI)=100% area, [M+H]+=438 m/e.

reactant | 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12BrNO2S
reactant | 3-[3-(3-chloro-propoxy)-phenyl]-thieno[2,3-d]isoxazole | ClCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12ClNO2S
reactant | 1-(2-fluorophenyl) piperazine | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-(3-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-propoxy}-phenyl)-thieno[2,3-d]isoxazole | 0.45 g, 100% Yield | FC1=C(C=CC=C1)N1CCN(CC1)CCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C24H24FN3O2S
